US04159375
A solution of 19.8 g. of 3-chloro-6-(o-chlorophenyl)-1,2,4-triazine in 120 ml. of pyridine is treated with 15 g. of hydrazine hydrate as described in Example 12, giving 6-(o-chlorophenyl)-3-hydrazino-1,2,4-triazine as yellow needles.

reactant | 3-chloro-6-(o-chlorophenyl)-1,2,4-triazine | ClC=1N=NC(=CN1)C1=C(C=CC=C1)Cl | C9H5Cl2N3
reactant | hydrazine hydrate | O.NN
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-(o-chlorophenyl)-3-hydrazino-1,2,4-triazine | ClC1=C(C=CC=C1)C1=CN=C(N=N1)NN | C9H8ClN5
